US04337341
2-Phenyl-2-(2-propenyl)-1-methoxycarbonylcyclopentane was hydrolyzed by reaction with aqueous potassium hydroxide to provide 2-phenyl-2-(2-propenyl)-1-hydroxycarbonylcyclopentane.

reactant | 2-Phenyl-2-(2-propenyl)-1-methoxycarbonylcyclopentane | C1(=CC=CC=C1)C1(C(CCC1)C(=O)OC)CC=C | C16H20O2
reactant | potassium hydroxide | [OH-].[K+]
product | 2-phenyl-2-(2-propenyl)-1-hydroxycarbonylcyclopentane | C1(=CC=CC=C1)C1(C(CCC1)C(=O)O)CC=C | C15H18O2
